US05665718
10 g (31.09 mmol) of (S)-8-chloro-7-fluoro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]-imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid were dissolved in 100 ml of N,N-dimethylformamide, treated portionwise with 6.05 g (37.3 mmol) of 1,1'-carbonyldiimidazole and stirred at room temperature for 1 hour. After adding 6.8 g (31.09 mmol) of phthaloylglycine amidoxime the mixture was stirred at room temperature overnight, 10 ml of trifluoroacetic acid were added and the mixture was stirred at 90° overnight. After evaporating the solvent the residue was crystallized from methylene chloride and methanol. There were obtained 8.55 g (54%) of (S)-8-chloro-7-fluoro-12,12a-dihydro-1-(3-phthalimidomethyl-1,2,4-oxadiazol-5-yl)-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one of m.p. 292°-294°.

reactant | (S)-8-chloro-7-fluoro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]-imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid | 31.09 mmol, 10 g | ClC1=C(C=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)O)CC1)=O)F | C14H9ClFN3O3
reactant | 1,1'-carbonyldiimidazole | 37.3 mmol, 6.05 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | (S)-8-chloro-7-fluoro-12,12a-dihydro-1-(3-phthalimidomethyl-1,2,4-oxadiazol-5-yl)-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 8.55 g, 54% | ClC1=C(C=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NC(=NO3)CN3C(C=2C(C3=O)=CC=CC2)=O)CC1)=O)F | C24H14ClFN6O4
